US07728029B2
Rh/Al2O3 (2.3 g, 5 wt. %, 1.1 mmol) was added to a mixture of 5-hydroxy-admantane-2-one oxime (10 g, 55 mmol) in EtOH (100 mL) in a Parr hydrogenation bottle. The hydrogenation reaction was performed in a Parr hydrogenation instrument at 55 psi pressure of hydrogen at 50° C. for 48 hours. The disappearance of starting material and generation of the product were detected by LC-MS. The mixture was filtered through celite and concentrated under vacuum to dryness to give 4-amino-adamantan-1-ol (about 9 g, ˜98%) which was used for the next step without further purification. Mass spectrum: m/z: 168.1 (M+1).

reactant | 5-hydroxy-admantane-2-one oxime | 55 mmol, 10 g | OC12CC3C(C(CC(C1)C3)C2)=NO | C10H15NO2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Rh/Al2O3 | 1.1 mmol, 2.3 g | [Rh] | Rh
product | 4-amino-adamantan-1-ol | about 9 g, ~98% | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
